US07335658B2
N-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}-2-(3,3,3-TRIFLUOROPROPOXY)ACETAMIDE
Following the procedure of Example 2, making variations only as required to use (3,3,3-trifluoropropoxy)acetic acid in place of benzyloxyacetic acid to react with [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone, the title compound was obtained as a white powder (50% yield). 1H NMR (300 MHz, CDCl3) δ 9.03, 8.32, 7.75, 7.63, 7.56, 7.37, 7.03, 4.13, 4.03-3.98, 3.94-3.89, 3.84, 3.71-3.63, 3.60-3.58, 3.35-3.32, 2.56-2.48. MS (ES+) m/z 506.5 (M+1).

reactant | (3,3,3-trifluoropropoxy)acetic acid | FC(CCOCC(=O)O)(F)F | C5H7F3O3
reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
product | N-{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}-2-(3,3,3-TRIFLUOROPROPOXY)ACETAMIDE | FC(C1=C(C(=O)N2CCN(CC2)C2=CC=C(N=N2)NC(COCCC(F)(F)F)=O)C=CC=C1)(F)F | C21H21F6N5O3
